### PR TITLE
[Merged by Bors] - split power series in several files

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This PR split the files devoted to power series (especially RingTheory/PowerSeries/Basic) into several ones:

* RingTheory/MvPowerSeries/Basic - initial definitions (multivariate)
* RingTheory/MvPowerSeries/Trunc - truncation
* RingTheory/MvPowerSeries/Inverse - stuff pertaining to inverses

* RingTheory/PowerSeries/Basic - initial definitions (univariate)
* RingTheory/PowerSeries/Trunc - truncation
* RingTheory/PowerSeries/Inverse - stuff pertaining to inverses
* RingTheory/PowerSeries/Order - stuff pertaining to order

it remains to adjust the other files (PowerSeries/Derivative and PowerSeries/WellKnown)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 1]
```diff
@@ -0,0 +1,113 @@
...
+Authors: Johan Commelin, Kenny Lau
+-/
+
+import Mathlib.RingTheory.MvPowerSeries.Basic
+import Mathlib.Data.Finsupp.Interval
+-- import Mathlib.LinearAlgebra.StdBasis
+-- import Mathlib.Tactic.Linarith
+-- import Mathlib.Data.MvPolynomial.Basic
+-- import Mathlib.RingTheory.Multiplicity
+-- import Mathlib.Data.Finset.PiAntidiagonal
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean:13]: Please remove these. And also elsewhere (I didn't check if this is the only place).

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,946 @@
...
+
+/-!
+# Formal (multivariate) power series
+
+This file defines multivariate formal power series
+and develops the basic properties of these objects.
+
+A formal power series is to a polynomial like an infinite sum is to a finite sum.
+
+We provide the natural inclusion from polynomials to formal power series.
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:22]:
```suggestion
We provide the natural inclusion from multivariate polynomials to multivariate formal power series.
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,946 @@
...
+instance {A S} [Semiring R] [Semiring S] [AddCommMonoid A] [Module R A] [Module S A] [SMul R S]
+    [IsScalarTower R S A] : IsScalarTower R S (MvPowerSeries σ A) :=
+  Pi.isScalarTower
+
+section Semiring
+
+variable (R) [Semiring R]
+
+/-- The `n`th monomial with coefficient `a` as multivariate formal power series.-/
+def monomial (n : σ →₀ ℕ) : R →ₗ[R] MvPowerSeries σ R :=
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:101]:
```suggestion
/-- The `n`th monomial as multivariate formal power series: it is defined as the `R`-linear map from `R` to the semi-ring of multivariate formal power series associating to each `a` the map sending `n : σ→ₒ ℕ` to the value `a` and sending all other `x : σ →ₒ ℕ` different from `n` to `0`.-/
def monomial (n : σ →₀ ℕ) : R →ₗ[R] MvPowerSeries σ R :=
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,946 @@
...
+#align mv_power_series.map_C MvPowerSeries.map_C
+
+@[simp]
+theorem map_X (s : σ) : map σ f (X s) = X s := by simp [MvPowerSeries.X]
+set_option linter.uppercaseLean3 false in
+#align mv_power_series.map_X MvPowerSeries.map_X
+
+end Map
+
+section Algebra
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:610]: Why this interlude about Algebra is here? Shouldn't it be further below, together with the rest of the Algebra section?

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,946 @@
...
+theorem coe_eq_zero_iff : (φ : MvPowerSeries σ R) = 0 ↔ φ = 0 := by rw [← coe_zero, coe_inj]
+#align mv_polynomial.coe_eq_zero_iff MvPolynomial.coe_eq_zero_iff
+
+@[simp]
+theorem coe_eq_one_iff : (φ : MvPowerSeries σ R) = 1 ↔ φ = 1 := by rw [← coe_one, coe_inj]
+#align mv_polynomial.coe_eq_one_iff MvPolynomial.coe_eq_one_iff
+
+/-- The coercion from multivariable polynomials to multivariable power series
+as a ring homomorphism.
+-/
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:876]:
```suggestion
/-- The coercion from multivariable polynomials to multivarite power series
as a ring homomorphism.
-/
```
Here and below, multivariable should become multivariate in accordance with the beginning of the file.

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 6]
```diff
@@ -0,0 +1,293 @@
...
+#align_import ring_theory.power_series.basic from "leanprover-community/mathlib"@"2d5739b61641ee4e7e53eca5688a08f66f2e6a60"
+
+/-!
+# Formal (multivariate) power series - Inverses
+
+This file defines multivariate formal power series
+and develops the basic properties of these objects.
+
+If the constant coefficient of a formal power series is invertible,
+then this formal power series is invertible.
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean:20]:
```suggestion
The definition `invOfUnit` shows that if the constant coefficient of a formal power series is invertible, then this formal power series is invertible.
```

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 7]
```diff
@@ -0,0 +1,293 @@
...
+
+Formal power series over a local ring form a local ring.
+
+-/
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean:24]: It is probably worth it adding a small implementation note explaining how this inverse is defined, because it is quite counter-intuitive: see the discussion here https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/power.20series/near/346363742

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean [hunk 8]
```diff
@@ -0,0 +1,293 @@
...
+-- TODO(jmc): once adic topology lands, show that this is complete
+end CommRing
+
+section LocalRing
+
+variable {S : Type*} [CommRing R] [CommRing S] (f : R →+* S) [IsLocalRingHom f]
+
+-- Thanks to the linter for informing us that this instance does
+-- not actually need R and S to be local rings!
+/-- The map `A[[X]] → B[[X]]` induced by a local ring hom `A → B` is local -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Inverse.lean:152]:
```suggestion
/-- The map between multivariate formal power series over the same indexing set
 induced by a local ring hom `A → B` is local -/
```

File: Mathlib/RingTheory/MvPowerSeries/Trunc.lean [hunk 9]
```diff
@@ -0,0 +1,107 @@
...
+
+import Mathlib.RingTheory.MvPowerSeries.Basic
+import Mathlib.Data.Finsupp.Interval
+
+/-!
+
+# Formal (multivariate) power series - Truncation
+
+`trunc n φ` truncates a formal power series to the polynomial
+that has the same coefficients as `φ`, for all `m < n`, and `0` otherwise.
```
Comment (faenuccio) [inline Mathlib/RingTheory/MvPowerSeries/Trunc.lean:15]:
```suggestion
`trunc n φ` truncates a multivariate formal power series `φ` to the polynomial
that has the same coefficients as `φ`, for all `m < n`, and `0` otherwise.
```
Perhaps a word can be said about the ordering, since these `m` and `n` are not in `ℕ`?

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 10]
```diff
@@ -3,1292 +3,54 @@ Copyright (c) 2019 Johan Commelin. All rights reserved.
...
-
-variable (σ R)
-
-theorem coe_injective : Function.Injective (Coe.coe : MvPolynomial σ R → MvPowerSeries σ R) :=
-    fun x y h => by
-  ext
-  simp_rw [← coeff_coe]
-  congr
-#align mv_polynomial.coe_injective MvPolynomial.coe_injective
+import Mathlib.RingTheory.MvPowerSeries.Basic
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:7]:
```suggestion
import Mathlib.RingTheory.MvPowerSeries.Basic
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 11]
```diff
@@ -3,1292 +3,54 @@ Copyright (c) 2019 Johan Commelin. All rights reserved.
...
--/
-def coeToMvPowerSeries.ringHom : MvPolynomial σ R →+* MvPowerSeries σ R where
-  toFun := (Coe.coe : MvPolynomial σ R → MvPowerSeries σ R)
-  map_zero' := coe_zero
-  map_one' := coe_one
-  map_add' := coe_add
-  map_mul' := coe_mul
-#align mv_polynomial.coe_to_mv_power_series.ring_hom MvPolynomial.coeToMvPowerSeries.ringHom
+Formal power series in one variable are defined from multivariate
+poweries as `PowerSeries R := MvPowerSeries Unit R`.
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:22]:
```suggestion
formal power series as `PowerSeries R := MvPowerSeries Unit R`.
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 12]
```diff
@@ -3,1292 +3,54 @@ Copyright (c) 2019 Johan Commelin. All rights reserved.
...
+We provide the natural inclusion from polynomials to formal power series.
 
-@[simp]
-theorem coeToMvPowerSeries.ringHom_apply : coeToMvPowerSeries.ringHom φ = φ :=
-  rfl
-#align mv_polynomial.coe_to_mv_power_series.ring_hom_apply MvPolynomial.coeToMvPowerSeries.ringHom_apply
+Additional results can be found in:
+* `Mathlib.RingTheory.PowerSeries.Trunc`, truncation of power series
+* `Mathlib.RingTheory.PowerSeries.Inverse`, about inverses of power series,
+and the fact that power series over a local ring form a local ring
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:31]:
```suggestion
and the fact that power series over a local ring form a local ring.
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 13]
```diff
@@ -3,1292 +3,54 @@ Copyright (c) 2019 Johan Commelin. All rights reserved.
...
 
-variable (φ ψ)
+We provide the natural inclusion from polynomials to formal power series.
 
-@[simp]
-theorem coeToMvPowerSeries.ringHom_apply : coeToMvPowerSeries.ringHom φ = φ :=
-  rfl
-#align mv_polynomial.coe_to_mv_power_series.ring_hom_apply MvPolynomial.coeToMvPowerSeries.ringHom_apply
+Additional results can be found in:
+* `Mathlib.RingTheory.PowerSeries.Trunc`, truncation of power series
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:29]:
```suggestion
* `Mathlib.RingTheory.PowerSeries.Trunc`, truncation of power series.
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 14]
```diff
@@ -3,1292 +3,54 @@ Copyright (c) 2019 Johan Commelin. All rights reserved.
...
+## Implementation notes
 
-variable (A : Type*) [CommSemiring A] [Algebra R A]
+Because of its definition,
+  `PowerSeries R := MvPowerSeries Unit R`.
+a lot of proofs and properties from the multivariate case
+can be ported to the single variable case.
+However, it means that formal power series are indexed by `Unit →₀ ℕ`,
+which is of course canonically isomorphic to `ℕ`.
+We then build some glue to treat formal power series as if they are indexed by `ℕ`.
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:44]:
```suggestion
We then build some glue to treat formal power series as if they were indexed by `ℕ`.
```

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 15]
```diff
@@ -3,1292 +3,54 @@ Copyright (c) 2019 Johan Commelin. All rights reserved.
...
-theorem algebraMap_apply'' :
-    algebraMap (MvPowerSeries σ R) (MvPowerSeries σ A) f = map σ (algebraMap R A) f :=
-  rfl
-#align mv_power_series.algebra_map_apply'' MvPowerSeries.algebraMap_apply''
+open BigOperators
 
-end MvPowerSeries
+open Finset (antidiagonal mem_antidiagonal)
 
 /-- Formal power series over the coefficient ring `R`.-/
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Basic.lean:55]: `R` is not a ring here...

File: Mathlib/RingTheory/PowerSeries/Derivative.lean [hunk 16]
```diff
@@ -3,7 +3,9 @@ Copyright (c) 2023 Richard M. Hill. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Richard M. Hill
 -/
-import Mathlib.RingTheory.PowerSeries.Basic
+
+import Mathlib.RingTheory.PowerSeries.Trunc
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Derivative.lean:7]:
```suggestion
-/
import Mathlib.RingTheory.PowerSeries.Trunc
```

File: Mathlib/RingTheory/PowerSeries/Derivative.lean [hunk 17]
```diff
@@ -3,7 +3,9 @@ Copyright (c) 2023 Richard M. Hill. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Richard M. Hill
 -/
-import Mathlib.RingTheory.PowerSeries.Basic
+
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Derivative.lean:6]:
```suggestion
```

File: Mathlib/RingTheory/PowerSeries/Inverse.lean [hunk 18]
```diff
@@ -0,0 +1,239 @@
...
+-/
+
+import Mathlib.RingTheory.PowerSeries.Basic
+import Mathlib.RingTheory.MvPowerSeries.Inverse
+
+#align_import ring_theory.power_series.basic from "leanprover-community/mathlib"@"2d5739b61641ee4e7e53eca5688a08f66f2e6a60"
+
+/-! # Formal power series - Inverses
+
+If the constant coefficient of a formal power series is invertible,
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Inverse.lean:14]:
```suggestion
If the constant coefficient of a (univariate) formal power series is invertible,
```

File: Mathlib/RingTheory/PowerSeries/Inverse.lean [hunk 19]
```diff
@@ -0,0 +1,239 @@
...
+then this formal power series is invertible.
+
+Formal power series over a local ring form a local ring.
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Inverse.lean:17]:
```suggestion
(univariate) formal power series over a local ring form a local ring.
```

File: Mathlib/RingTheory/PowerSeries/Inverse.lean [hunk 20]
```diff
@@ -0,0 +1,239 @@
...
+
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Inverse.lean:18]: One could either add here the same implementation note that I suggested for MV ones concerning inverses, or point to that comment here.

File: Mathlib/RingTheory/PowerSeries/Order.lean [hunk 21]
```diff
@@ -0,0 +1,349 @@
...
+import Mathlib.RingTheory.PowerSeries.Basic
+import Mathlib.Algebra.CharP.Basic
+
+#align_import ring_theory.power_series.basic from "leanprover-community/mathlib"@"2d5739b61641ee4e7e53eca5688a08f66f2e6a60"
+
+/-! # Formal power series (in one variable) - Order
+
+The `order` of a formal power series `φ` is the multiplicity of the variable `X` in `φ`.
+
+If the coefficients form an integral domain, then `order` is a valuation
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Order.lean:16]:
```suggestion
If the coefficients form an integral domain, then `order` is an additive valuation
```

File: Mathlib/RingTheory/PowerSeries/Trunc.lean [hunk 22]
```diff
@@ -0,0 +1,225 @@
...
+import Mathlib.Data.Polynomial.Degree.Lemmas
+
+#align_import ring_theory.power_series.basic from "leanprover-community/mathlib"@"2d5739b61641ee4e7e53eca5688a08f66f2e6a60"
+
+
+/-!
+
+# Formal power series in one variable - Truncation
+
+`trunc n φ` truncates a formal power series to the polynomial
```
Comment (faenuccio) [inline Mathlib/RingTheory/PowerSeries/Trunc.lean:18]:
```suggestion
`trunc n φ` truncates a formal power series `φ` to the polynomial
```

File: Mathlib/RingTheory/MvPowerSeries/Inverse.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Inverse.lean:23]: It is very clever to exact from the equation phi · (phi inverse) = 1  recurrence relations for the coefficients of (phi inverse) that show how to solve inductively for their coefficients.
I agree some math should be said in the text…

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Basic.lean:7]: What do you mean?

File: Mathlib/RingTheory/PowerSeries/Derivative.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/PowerSeries/Derivative.lean:6]: What should I do?

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:614]: Yes. But that section is about general algebras, and the next one is about the commutative case.

Comment (faenuccio) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:614]: I see, I do not have a strong opinion here although I would slightly prefer the idea of "richer structures" being further down. But ignore this message if you prefer so.

File: Mathlib/RingTheory/PowerSeries/Basic.lean (hunk 10 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: @faenuccio I guess you did something wrong with the github interface :)

Comment (faenuccio) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: Indeed, I am sorry. I am fixing it now in this moment....

File: Mathlib/RingTheory/PowerSeries/Derivative.lean (hunk 17 above)
Comment (faenuccio) [reply Mathlib/RingTheory/PowerSeries/Derivative.lean:6]: I simply wanted to suggest to delete the empty line 6 in PowerSeries/Basic but created a mess with the interface 😞 I am sorry. I have deleted the suggestion and simply committed the change but removing that empty line. Same thing with the Derivative file, to answer @AntoineChambert-Loir 's question about what should he do.

**Comment by faenuccio** [comment]
Thanks, LGTM.

**Comment by riccardobrasca** [comment]
This is surely better than the current situation, thanks!

bors merge
